US06632919B1
6-Amino-2-(pivaloylamino)pyridine
To a solution of 2,6-diaminopyridine (50.0 g, 0.46 mol) in dioxane (250 mL) was added slowly (1 h) pivaloylchloride (27.9 g, 0.23 mol), dissolved in dioxane (50 mL). The resulting mixture was stirred for 2 h and the white precipitate (2,6-diaminopyridine hydrochloride) filtered off. The organic phase was evaporated to dryness in vacuo, and the crude product recrystalized from n-hexane/ethyl acetate to give the desired product (32.83 g, 74%) as colorless crystals (mp 140-141° C.). 1H NMR (DMSO-d6): δ 8.93 (s, 1H), 7.34 (t, 7.9 Hz, 1H), 7.19 (d, 7.6 Hz, 1H), 6.18 (d, 7.6 Hz, 1H), 5.75 (br. s, 2H), 1.19 (s, 9H). 13C NMR (DMSO-d6): δ 176.5, 158.5, 150.4, 138.4, 103.6, 101.5, 39.4, 27.1. FAB+ MS (m/z): 193.88 M+H+, calc. for C10H15N3O+H+ 194.1293.

reactant | 2,6-diaminopyridine | 0.46 mol, 50.0 g | NC1=NC(=CC=C1)N | C5H7N3
reactant | pivaloylchloride | 0.23 mol, 27.9 g | C(C(C)(C)C)(=O)Cl | C5H9ClO
solvent | dioxane | 250 mL | O1CCOCC1 | C4H8O2
solvent | dioxane | 50 mL | O1CCOCC1 | C4H8O2
product | 6-Amino-2-(pivaloylamino)pyridine | 32.83 g, 74% | NC1=CC=CC(=N1)NC(C(C)(C)C)=O | C10H15N3O
